US08389764B2
N-Methylmorpholine (53 μl, 0.48 mmol), 1-hydroxybenzotriazole (28 mg, 0.208 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (36.8 mg, 0.192 mmol) were added in the stated sequence to a solution of tert-butyl(S)-6-tert-butoxycarbonylamino-2-[3-((R)-1-carboxy-2-cyclohexyl-ethyl)-ureido]-hexanoate (80 mg, 0.16 mmol) and 2,4-difluorobenzylamine (22.9 mg, 0.16 mmol) in 3 ml of CH2Cl2 and 1 ml of DMF, and the mixture was stirred at RT for about 14 h. Extraction with CH2Cl2/H2O, drying of the organic phase with MgSO4 and evaporation afforded tert-butyl (S)-6-tert-butoxycarbonylamino-2-{3-[(R)-2-cyclohexyl-1-(2,4-difluorobenzylcarbamoyl)-ethyl]-ureido}-hexanoate as crude product. The entire crude product was dissolved in 4 ml of CH2Cl2, 1 ml of TFA was added and, after 4 h, a further 0.5 ml of TFA was added, and deprotection was carried out at RT for about 10 h. Purification of the deprotected crude product by preparative HPLC afforded 25 mg (27%) of (S)-6-amino-2-{3-[(R)-2-cyclohexyl-1-(2,4-difluorobenzylcarbamoyl)-ethyl]-ureido}-hexanoic acid trifluoroacetate.

reactant | N-Methylmorpholine | 0.48 mmol, 53 μl | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.208 mmol, 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.192 mmol, 36.8 mg | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl(S)-6-tert-butoxycarbonylamino-2-[3-((R)-1-carboxy-2-cyclohexyl-ethyl)-ureido]-hexanoate | 0.16 mmol, 80 mg | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)N[C@H](CC1CCCCC1)C(=O)O | C25H45N3O7
reactant | 2,4-difluorobenzylamine | 0.16 mmol, 22.9 mg | FC1=C(CN)C=CC(=C1)F | C7H7F2N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-butyl (S)-6-tert-butoxycarbonylamino-2-{3-[(R)-2-cyclohexyl-1-(2,4-difluorobenzylcarbamoyl)-ethyl]-ureido}-hexanoate | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)N[C@H](CC1CCCCC1)C(NCC1=C(C=C(C=C1)F)F)=O | C32H50F2N4O6
